US05908841
To a stirred solution of N-(2-chloro-3-pyridinyl)-2-methylnicotinamide (1.48 g) in DMSO (20 mL) was added NaH (60% in oil, 0.26 g). After 20 minutes, methyl iodide (0.45 mL) was added, and stirring was continued for 30 minutes. The mixture was diluted with ethyl acetate, washed with water, dried (Na2SO4), filtered, and evaporated. Chromatography of the residue over silica gel (ethyl acetate/hexane) gave N-(2-chloro-3-pyridinyl)-N-methyl-2-methylnicotinamide (1.51 g).

reactant | N-(2-chloro-3-pyridinyl)-2-methylnicotinamide | 1.48 g | ClC1=NC=CC=C1NC(C1=C(N=CC=C1)C)=O | C12H10ClN3O
reactant | NaH | 0.26 g | [H-].[Na+]
reactant | methyl iodide | 0.45 mL | CI | CH3I
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-chloro-3-pyridinyl)-N-methyl-2-methylnicotinamide | 1.51 g | ClC1=NC=CC=C1N(C(C1=C(N=CC=C1)C)=O)C | C13H12ClN3O
